US05364561
3) Synthesis of 4'-n-undecanoyloxybiphenyl-4-carboxylic acid
4'-Hydroxybiphenyl-4-carboxylic acid (3.5 g) and triethylamine (2.4 g) were dissolved in dichloromethane (30 ml). Undecanoyl chloride (4.3 g) and dimethylaminopyridine (0.2 g) were added to the solution, and the mixture was stirred at room temperature for about 20 hours. Dilute hydrochloric acid was added thereto, and the organic layer was separated in a separating funnel. The solvent was removed by evaporation, and the residue was dried after washing with n-hexane to give the titled compound (5 g).

reactant | 4'-Hydroxybiphenyl-4-carboxylic acid | 3.5 g | OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C13H10O3
reactant | Undecanoyl chloride | 4.3 g | C(CCCCCCCCCC)(=O)Cl | C11H21ClO
reactant | dimethylaminopyridine | 0.2 g | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
solvent | triethylamine | 2.4 g | C(C)N(CC)CC | C6H15N
product | 4'-n-undecanoyloxybiphenyl-4-carboxylic acid | 5 g | C(CCCCCCCCCC)(=O)OC1=CC=C(C=C1)C1=CC=C(C=C1)C(=O)O | C24H30O4
